US08426417B2
1-methyl-5-[2-(5-piperazin-1-yl-2-trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-1H-pyrrole-3-carboxylic acid amide (A1B3C2 M1)
To a solution of 4-{3-[4-(4-carbamoyl-1-methyl-1H-pyrrol-2-yl)-pyrimidin-2-ylamino]-4-trifluoromethoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester (176 mg, 0.314 mmol) in dioxane (3 mL), HCl in dioxane solution (4N, 4 mL) were added. The reaction was stirred at room temperature for 6 hours and the precipitate collected by filtration. The precipitate was dissolved in HCl water solution (0.1N, 30 mL) and washed with dichlorometane (50 mL). The aqueous layers were collected and the title compound precipitated by addition of sodium bicarbonate. The aqueous phase was eliminated by filtration, the solid washed with water (10 mL) and dried under vacuo at 30° C. to yield 96 mg (66%) of the title compound as an hazelnut powder.

reactant | 4-{3-[4-(4-carbamoyl-1-methyl-1H-pyrrol-2-yl)-pyrimidin-2-ylamino]-4-trifluoromethoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.314 mmol, 176 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)OC(F)(F)F)NC1=NC=CC(=N1)C=1N(C=C(C1)C(N)=O)C | C26H30F3N7O4
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | HCl | Cl | ClH
solvent | dioxane | 4N, 4 mL | O1CCOCC1 | C4H8O2
product | 1-methyl-5-[2-(5-piperazin-1-yl-2-trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-1H-pyrrole-3-carboxylic acid amide | 96 mg, 66% | CN1C=C(C=C1C1=NC(=NC=C1)NC1=C(C=CC(=C1)N1CCNCC1)OC(F)(F)F)C(=O)N | C21H22F3N7O2
